US05824799
Synthesis of 7-oct-1-enyldimethylsilanol
A solution of 7-oct-1-enyldimethylchlorosilane (2.56 ml) in ether (2 ml) was added dropwise over 1 hour to a stirring mixture of triethylamine (1.5 ml), water (0.18 ml) and ether (15 ml) in an ice/water bath. The resultant was stirred a further 1 hour in the ice/water bath and filtered washing the filtered solid with ether (10 ml). The filtrate was evaporated with a rotary evaporator and the residue partitioned between hexane (30 ml) and water (30 ml). The organic layer was separated, dried (MgSO4) and filtered through silica gel (70-230 mesh, 60 Å), washing with hexane (100 ml). The filtrate was evaporated with a rotary evaporator to afford a colorless oil which was vacuum dried and weighed (1.06 g).

reactant | 7-oct-1-enyldimethylchlorosilane | 2.56 ml | C=CCCCCC(C)[Si](Cl)(C)C | C10H21ClSi
reactant | triethylamine | 1.5 ml | C(C)N(CC)CC | C6H15N
reactant | water | 0.18 ml | O | H2O
solvent | ether | 2 ml | CCOCC | C4H10O
solvent | ether | 15 ml | CCOCC | C4H10O
product | 7-oct-1-enyldimethylsilanol | C=CCCCCC(C)[Si](O)(C)C | C10H22OSi
